Name:  ___.           Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
Coronary Catheterization ___

 
History of Present Illness:
___ yo M CAD s/p CABG ___, s/p 8 stents (most recent ___, HTN, 
HL who presents with chest pain and dyspnea starting around 4pm 
while walking into church, radiation to both arms and to back. 
Pain is described as heaviness, substernal, non-pleuritic, no 
relation to food. Denies cough, fever, chills, nausea, vomiting. 
He has had different symptoms with all of his previous episodes 
of CP. Took 3 SL NTG (maybe expired) in church when pain 
persisted at rest with no relief. Pain then stopped 
spontaneously and he walked back to work. He then noted acute 
onset of diaphoresis, dyspnea, and CP again while at rest and 
called EMS. EMS EKGs showed dynamic EKG changes with ST dep 
V1-5, worse when pain ___. He was given an additional SL NTG 
with no relief and ASA 325mg and brought to the ___ ED.  
In the ED, initial VS: 58 154/76 18 96% 2L. He reported ___ CP 
upon arrival and EKG notable for <1mm STD V2-V3, similar to 
prior. He then developed ___ CP and EKG at that time showed 
diffuse T wave flattening. Nitro gtt was started and pain 
resolved entirely. Labs notable for Trot <.01 x1, BUN 22, Cr 1.3 
with baseline 1.1. CXR showed no acute process. CTA chest showed 
no evidence of dissection or PE. Cardiology was consulted and 
recommended admission to ___, Plavix load, heparin and nitro 
drips. VS at transfer: 98.0 126/62 55 17 98% 2L NC.  
 
Currently, he feels much better since starting the nitro gtt, 
denies CP or SOB.  
.  
ROS: Denies fever, chills, night sweats, headache, vision 
changes, rhinorrhea, congestion, sore throat, cough, abdominal 
pain, nausea, vomiting, diarrhea, constipation, BRBPR, melena, 
hematochezia, dysuria, hematuria.
 
Past Medical History:
1. CARDIAC RISK FACTORS: + Diabetes (A1c 5.8%), + Dyslipidemia, 
+  
Hypertension  
2. CARDIAC HISTORY:  
-CABG: ___ with LIMA-LAD, SVG-PDA, SVG-LAD. ___ POBA to distal 
 
PDA.  
-PERCUTANEOUS CORONARY INTERVENTIONS:  
___: DES to proximal RCA.  
___: Patent LIMA-LAD. Occluded SVG-PDA. SVG-LAD with serial  

80% lesions with unsuccessful PCI complicated by right common  
femoral artery laceration and hematoma requiring urgent vascular 
 
surgery.  
___: SVG-LAD with 30% lesion. DES to proximal PDA,  
complicated by left groin hematoma.  
___: 99% mid and 70% stenosis at the origin of SVG, 2 DES 
placed  
.  
3. OTHER PAST MEDICAL HISTORY:  
-Degenerative joint disease s/p THR ___  
-Bilateral ankle replacements in ___.  
-GERD  
-S/p tonsillectomy  
-adenomatous polyps
 
Social History:
___
Family History:
Mother died from an MI at age ___, first MI in ___. His brother 
had an MI and CABG at age ___. Significant FH of CAD on maternal 
side and cancer on paternal side.
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:
VS- T= 97.5 BP= 124/59 HR= 70 RR= 20 O2 sat= 98RA
GENERAL- WDWN man in NAD. AOx3. Mood, affect appropriate.  
HEENT- NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.  

NECK- Supple without detectable JVD given habitus  
CARDIAC- RRR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 
or S4.  
LUNGS- CTAB, no crackles, wheezes or rhonchi.  
ABDOMEN- Soft, obsese, NTND. No HSM or tenderness. 
EXTREMITIES- 1+ pitting halfway up shin. No femoral bruits.  
SKIN- Mild stasis dermatitis, no ulcers, scars, or xanthomas.  
PULSES-  
Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  
Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+
.
DISCHARGE PHYSICAL EXAM:
VS - 98.0, 98.5, 140/86 (126-145/71-91), 57 (50-76), 18, 99RA
GENERAL - Well-appearing man in NAD, comfortable, appropriate  
HEENT - NC/AT, PERRLA, EOMI, sclerae anicteric, MMM, OP clear  
NECK - Supple, no thyromegaly, no JVD, no carotid bruits  
LUNGS - CTA bilat, no r/rh/wh, good air movement, resp 
unlabored, no accessory muscle use  
HEART - PMI non-displaced, RRR, no MRG, nl S1-S2  
ABDOMEN - NABS, soft/NT/ND, no masses or HSM, no 
rebound/guarding  
EXTREMITIES - WWP, no c/c/e, 2+ peripheral pulses (radials, DPs) 
 
SKIN - sternotomy and saphenous vein harvest scars  
LYMPH - no cervical, axillary, or inguinal LAD  
NEURO - awake, A&Ox3, moving all extremities  
 
Pertinent Results:
ADMISSION LABS:
---------------
___ 04:10PM BLOOD WBC-7.8 RBC-4.54* Hgb-14.6 Hct-41.8 
MCV-92 MCH-32.2* MCHC-34.9 RDW-13.1 Plt ___
___ 04:10PM BLOOD Neuts-68.7 ___ Monos-4.9 Eos-2.1 
Baso-1.3
___ 04:10PM BLOOD ___ PTT-27.1 ___
___ 04:10PM BLOOD Glucose-220* UreaN-22* Creat-1.3* Na-142 
K-3.8 Cl-102 HCO3-27 AnGap-17
___ 04:10PM BLOOD CK-MB-2
___ 04:10PM BLOOD cTropnT-<0.01
___ 07:43AM BLOOD Calcium-9.5 Phos-3.9 Mg-1.9
.
DISCHARGE LABS:
---------------
___ 01:00PM BLOOD WBC-11.6* RBC-4.18* Hgb-13.3* Hct-39.5* 
MCV-95 MCH-31.8 MCHC-33.7 RDW-13.1 Plt ___
___ 06:50AM BLOOD Neuts-73.2* Lymphs-17.3* Monos-8.0 
Eos-1.3 Baso-0.2
___ 06:50AM BLOOD Glucose-101* UreaN-16 Creat-1.1 Na-137 
K-4.2 Cl-102 HCO3-26 AnGap-13
___ 01:00PM BLOOD CK-MB-43*
___ 06:50AM BLOOD Calcium-9.2 Phos-3.1 Mg-2.2
.
MICRO/PATH: NONE
-----------
.
IMAGING/STUDIES:
----------------
ECG ___:
Sinus bradycardia. Compared to the previous tracing of ___ 
multiple 
abnormalities are as previously reported. Clinical correlation 
is suggested.
.
CXR Portable ___: 
IMPRESSION:  No evidence of acute disease.
.
CTA Chest ___:
IMPRESSION:   
1.  No evidence of acute aortic dissection.   
2.  Mild prominence of the proximal ascending aorta measuring 
3.8 cm, 
representing minimal ectasia which is unchanged from ___. 
3.  Mild cardiomegaly. 
4.  Possible cholelithiasis. Mild thickening of the adrenal 
glands. 
.
Coronary Catheterization ___:
COMMENTS:      
1. Selective native coronary angiography in this right dominant 
system 
demonstrated 3 vessel coronary artery disease.  The LMCA had 
mild distal 
plaquing.  The LAD was proximally occluded.  The ramus 
intermedius had 
a 60% ostial lesion, and an 80% lesion prior to a bifircation 
which 
appeared slightly worse than on prior angiography. The LCX had a 
65% 
lesion in its mid segment.  The AV groove LCX demonstrated a 
likely 
recanalized tubular total occlusion between the OM2 and OM4, 
spanning 
the origin of OM3.  The AV groove LCX also supplied a OM4 and 
OM5/LPL 
branches, and the distal AV groove LCX and LPL gave off 
collaterals to 
the distal RCA.  The RCA had mild proximal tapering, a 50% 
lesion in its 
mid segment, and a 55% lesion in its distal segment before 
widely patent 
stents.  There was TIMI 2 slow flow noted.  The distal right PDA 
had 
diffuse disease in both poles up to 50% in the septal pole. 
2. Non-selective arterial conduit angiography demonstrated the 
LIMA to 
LAD to be patent proximally and in the graft.  The anastamosis 
to the 
LAD was not visualized well with non-selective injection.  
Selective 
LIMA angiography was deferred to save contrast. 
3. The proximal left subclavian was tortuous with a ___rterial pressure in the left subclavian artery was 138/68 mmHg 
(mean 96 
mmHg).  There was no gradient between the central aorta and left 

subclavian artery. 
4. Selective venous conduit angiography of the single 
SVG-diagonal graft 
demonstrated a 70% in-stent restenosis in the mid segment and a 
90% 
distal edge restenosis of the proximal stent.  There was a 360 
degree 
bend mid graft with a 50% proximal edge in-stent restenosis mid 
loop, 
and a distal edge 85% lesion at the efferent/distal end of the 
loop. 
There was with diffuse mild plaquing in the SVG beyond feeding a 
modest 
caliber diagonal.  The SVG to PDA graft was known to be totally 
occluded 
on prior angiography. 
5. Left heart catheterization revealed a midly elevated LVEDP of 
17 
mmHg.  There was no gradient across the aortic valve with 
carefull 
pullback.  There was mild systemic arterial hypertension with a 
centrae 
of 78 mmHg. 
6. Given the challenging nature of PCI to the SVG to diagnoal 
from a 
left radial approach due to poor guide support and difficult 
catheter 
control, a decision was made to proceede with PCI via a left 
femoral 
arterial approach (plan was to avoid the right femoral artery 
due to 
prior RFA laceration).  At this point, the patient stated that 
he was 
having a lot of left shoulder discomfort, and was uncertain that 
he 
could tolerate much more of the procedure.  Plan for PCI was 
reviewed 
with the patient who requested deferral of the PCI to another 
day.  A 
plan was made to return for PCI of the SVG-diagnoal via the LFA 
via a 7 
___ AL2 guiding catheter. 
  
FINAL DIAGNOSIS:     
1. Three vessel native coronary artery disease with some 
progression in 
the ramus intermedius. 
2. Severe edge and in-stent restenosis of the SVG-diagnoal. 
3. Tortuous left subclavian artery. 
4. Patent proximal and body of the LIMA to LAD. 
5. Mild left ventricular diastolic heart failure. 
6. Mild systemic arterial hypertension. 
7. Plan for PCI of the SVG-diagonal in ___ days via the LFA. 
.
Coronary Catheterization ___:
Coronary angiography:  
SVG-Diagonal:  Diffuse disease with extremely tortuous  vessel
and 360 degree loop.  With several 60-90% restenotic lesions in
the proximal and mid graft.  Mild luminal irregularities and
ectasia in the remaining graft proximal to the touchdown.

Interventional details
Change for 7 ___ AL-2.  Crossed with ChoICE ___ Floppy wire
into the diagonal.  Crossed with a ___ Grafix Intermediate wire
into the diagonal as a "buddy wire".  Predilated with a 2.5 mm
balloon.  Unable to deliver a stent around the 360 degree loop 
to
the 70% mid vessel lesion.  Deployed a 2.5 x 12 mm Resolute 
stent
and then a more proximal overlapping 2.5 x 14 mm Resolute stent
in the ostium.    Now delivered a Guideliner daughter catheter 
to
the proximal portion of the loop but unable to deliver stents.  
A
mid graft dissection was treated with inflation of a 2.5 mm
balloon.  With the balloon inflated as an "Anchor" the 
Guideliner
was delivered around the ___ 2.5 x 14 mm 
Resolute
stent was then deployed repairing the mid vessel dissection and 
a
more proximal overlapping 2.5 x 18 mm Resolute stent was 
deployed
repairing the  mid vessel 70% lesion.  All stents were
postdilated with a 2.75 mm balloon.  Final angiography revealed
normal flow, no dissection and 0% residual stenosis in the
stents.  The patient had chest pain during the procedure but 
left
the laboratory in stable condition.   A distal cutoff of a small
diagonal branch was noted but it was unclear whether this was a
new or old finding.

Assessment & Recommendations
1.ASA indefinitely
2.Plavix 75 mg POQD x 12 months uninterrupted, likely lifelong
3.Secondary prevention CAD.
 
Brief Hospital Course:
___ with extensive CAD history, s/p CABG and stents x8, HTN, HL, 
diabetes who presents with chest pain radiating to back and 
arms, a/w diaphoresis, SOB and ECG changes concerning for 
unstable angina.

ACTIVE DIAGNOSES:
-----------------
# Chest Pain/Unstable Angina: Patient admitted with episode of 
anginal chest pain with exertion and at rest without signficant 
EKG changes and negative enzymes x 3 sets c/w unstable angina. 
Patient had CTA in the ED which was negative for PE, dissection, 
or other intrathoracic process. Also had a CXR without evidence 
of pneumonia. Patient underwent C.cath with intervenable lesions 
but no PCI given technical difficulty with radial access. 
Patient was then taken back to C. cath with ___ 4 placed to 
SVG-diagonal to treat severe edge and in-stent restenosis. 
Patient was monitored post-procedure and was CP free for his 
entire hospitalization and discharged home on aspirin 81mg 
daily, plavix 75mg daily, vytorin, benzapril-HCTZ, and atenolol 
with outpatient and cardiology ___.

CHRONIC DIAGNOSES:
------------------  
# Bradycardia: Pt maintained his HR in the 50-60 range without 
symptoms during this hospitalization (also noted on prior 
ECG's). No concerning events on tele. No dose adjustment was 
made to his atenolol given his lack of symptoms.  
  
# HTN: Stable. He was continued on his home atenolol and 
amlodipine. His benzapril and HCTZ were held given 3 contrast 
loads during this admission (CTA, C. cath x 2) and re-started on 
discharge. 
  
# Diabetes: Diet controlled and takes metformin, last A1c 5.8%. 
Metformin held on admission and re-started at discharge.
  
# HL: Stable. Continued on ezetimibe and simvastatin 40mg daily. 


TRANSITIONAL ISSUES:
--------------------
-Patient was FULL CODE during this admission
-He will have cardiology and PCP ___ is now s/p PCI with 12 stents 
 
Medications on Admission:
AMLODIPINE [NORVASC] - (Prescribed by Other Provider) - 10 mg 
Tablet - 1 Tablet(s) by mouth once a day  
ATENOLOL - (Prescribed by Other Provider) - 25 mg Tablet - 1 
Tablet(s) by mouth once a day  
BENAZEPRIL-HYDROCHLOROTHIAZIDE - 20 mg-25 mg Tablet - One 
Tablet(s) by mouth Daily  
EZETIMIBE-SIMVASTATIN [VYTORIN ___ - (Prescribed by Other 
Provider) - 10 mg-40 mg Tablet - 1 (One) Tablet(s) by mouth once 
a day  
LANSOPRAZOLE - (Prescribed by Other Provider) - 30 mg Capsule, 
Delayed Release(E.C.) - 1 (One) Capsule(s) by mouth once a day  
METFORMIN - (Prescribed by Other Provider) - 500 mg Tablet - 1 
(One) Tablet(s) by mouth two times a day  
SUPPER B COMPLEX - (Prescribed by Other Provider) - Dosage 
uncertain  
ASPIRIN - 81 mg Tablet, Chewable - One Tablet(s) by mouth Daily  

CHOLECALCIFEROL (VITAMIN D3) - (Prescribed by Other Provider) - 
2,000 unit Capsule - 1 (One) Capsule(s) by mouth once a day  
COENZYME Q10 [CO Q-10] - (Prescribed by Other Provider) - Dosage 
uncertain  
MULTIVITAMIN - (Prescribed by Other Provider) - Tablet - 1 (One) 
Tablet(s) by mouth once a day  
VITAMIN E - (Prescribed by Other Provider) - 400 unit Capsule - 
1 (One) Capsule(s) by mouth once a day
 
Discharge Medications:
1. Amlodipine 10 mg PO DAILY 
Hold for SBP<100 
2. Atenolol 25 mg PO DAILY 
hold for HR<55, SBP<100 
3. benazepril-hydrochlorothiazide *NF* ___ mg Oral daily 
4. Lansoprazole Oral Disintegrating Tab 30 mg PO DAILY 
5. MetFORMIN (Glucophage) 500 mg PO BID 
Please re-start this medication on ___ 
6. Super B-50 Complex *NF* (B complex vitamins)    Oral daily 
7. Aspirin 81 mg PO DAILY 
8. Vitamin D ___ UNIT PO DAILY 
9. coenzyme Q10 *NF* 100 mg Oral daily 
10. Multivitamins 1 TAB PO DAILY 
11. Vytorin ___ *NF* (ezetimibe-simvastatin) ___ mg Oral 
daily 
12. Vitamin E 400 UNIT PO DAILY 
13. Clopidogrel 75 mg PO DAILY Start: In am 
RX *clopidogrel 75 mg daily Disp #*30 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
-Coronary artery disease with unstable angina

Secondary:
-HTN
-Diet-controlled diabetes

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you! You were admitted to ___ 
for evaluation and treatment of chest pain/angina. You were 
found to have some mild EKG changes but lab testing did not 
reveal any elevation in your cardiac enzymes suggesting there 
was no damage to your heart muscle. You also had a CT angiogram 
of your chest which did not reveal damage to your aorta or a 
clot that traveled to your lungs. You underwent coronary 
catheterizations (the first by your wrist, the second by your 
groin) which showed multiple narrowings of one of your vein 
grafts which was repaired with 4 drug-eluting stents. You had a 
low grade fever prior to discharge but no symptoms concerning 
for infection. If you begin developing fevers, cough, pain with 
urination, irritation of your skin, or diarrhea, please schedule 
an appointment with your primary care doctor. The low grade 
fever can sometimes be a response to a procedure such as a 
catheterization, and in these cases it is nothing to worry 
about. Because of this, we feel you are safe to be discharged 
home.

The following changes have been made to your medications:
-START Plavix 75mg by mouth once daily (You must stay on this 
medication for ___ year to prevent clots from forming in your 
stents)
-Continue your other medications as previously prescribed

Please ___ with the appointments as listed below.
 
Followup Instructions:
___